US07241887B2
1,4,5,6-Tetrachloro-7,7-dimethoxy-bicyclo[2.2.1]hept-5-ene-2,3-diol
Potassium hydroxide (112 g, 1.20 mol) in water (1 L) was treated with 1,7,8,9-tetrachloro-10,10-dimethoxy-3,5-dioxa-tricyclo[5.2.1.02,6]dec-8-en-4-one (358.3 g, 1.23 mol) in THF (500 mL) via addition funnel, producing a slight exotherm. The reddish solution was stirred overnight at room temperature. By morning, the solution became a murky dispersion, which was diluted with water (500 mL), and 12N HCl (20 mL) to pH 10. The product was extracted with EtOAc (1×1000 mL) and ether (1×500 mL). The combined organic layers were washed with 1N HCl (1×300 mL), water (1×300 mL), saturated aqueous NaHCO3 solution (1×300 mL) and saturated aqueous NaCl solution (1×300 mL), dried over Na2SO4, filtered and concentrated to give a light brown solid (310 g, 78%). (TLC 40% EtOAc/hexanes Rf 0.55); 1H NMR (400 MHz, CDCl3) δ 4.46 (s, 2H), 3.54 (s, 3H), 3.51 (s, 3H); GCMS m/z 322 (M)+, 287, 289 (M-Cl)+; mp 160–162° C.; Anal. Calcd for C9H10Cl4O4: C, 33.37; H, 3.11. Found C, 33.34; H, 3.16.

reactant | Potassium hydroxide | 1.20 mol, 112 g | [OH-].[K+]
reactant | 1,7,8,9-tetrachloro-10,10-dimethoxy-3,5-dioxa-tricyclo[5.2.1.02,6]dec-8-en-4-one | 1.23 mol, 358.3 g | ClC12C3OC(OC3C(C(=C1Cl)Cl)(C2(OC)OC)Cl)=O | C10H8Cl4O5
solvent | water | 1 L | O | H2O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | water | 500 mL | O | H2O
solvent | HCl | 12N, 20 mL | Cl | ClH
product | 1,4,5,6-Tetrachloro-7,7-dimethoxy-bicyclo[2.2.1]hept-5-ene-2,3-diol | 310 g, 78% | ClC12C(C(C(C(=C1Cl)Cl)(C2(OC)OC)Cl)O)O | C9H10Cl4O4
